US08957070B2
1-(Methoxymethyl)-7-[(methoxymethyl) (2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
To a mixture of 1-(methoxymethyl)-7-[(methoxymethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (3.83 g), 1H-1,2,3-benzotriazol-1-ol (1.51 g) and N,N-dimethylformamide (30 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (2.15 g) at room temperature, and the mixture was stirred for 20 min and 28% aqueous ammonia (3.4 mL) was added. The reaction mixture was stirred at room temperature for 3 hr, and water was added. The mixture was acidified with 10% aqueous citric acid solution, and the resulting crystals were filtrated, washed with water, and dried to give the title compound (3.67 g, yield 96%) as colorless crystals. melting point 203-204° C.

reactant | 1-(methoxymethyl)-7-[(methoxymethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 3.83 g | COCN1C(=CC2=CC=CC(=C12)N(S(=O)(=O)C=1SC=CC1)COC)C(=O)O | C17H18N2O6S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 1.51 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 2.15 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 3.4 mL | N | H3N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-(Methoxymethyl)-7-[(methoxymethyl) (2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 3.67 g, yield 96% | COCN1C(=CC2=CC=CC(=C12)N(S(=O)(=O)C=1SC=CC1)COC)C(=O)N | C17H19N3O5S2
